US08536197B2
(96a) Methyl 2-(4-nitrophenyl)-1,3-oxazole-4-carboxylate
α,α-Bisisobutyronitrile (66 mg, 0.4 mmol) was added to a solution of methyl 2-(4-nitrophenyl)-4,5-dihydro-1,3-oxazole-4-carboxylate (described in Kline, Toni; Andersen, Niels H.; Harwood, Eric A.; Bowman, Jason; Malanda, Andre; Endsley, Stephanie; Erwin, Alice L.; Doyle, Michael; Fong, Susan; Harris, Alex L.; Mendelsohn, Brian; et al., J. Med. Chem., 45, 14, 2002, 3112-3129, 1.95 g, 7.8 mmol) in benzene (30 mL). The mixture was heated to 80° C. and N-bromosuccinimide (1.53 g, 8.58 mmol) was added. The mixture was stirred at the same temperature for 1.5 hours and then ethyl acetate and dichloromethane were added, followed by sequentially washing with water and brine. This was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: chloroform/methanol=100/0, 20/1, 10/1) to obtain 1.29 g of the title compound as a colorless solid (67%).

reactant | methyl 2-(4-nitrophenyl)-4,5-dihydro-1,3-oxazole-4-carboxylate | 7.8 mmol, 1.95 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OCC(N1)C(=O)OC | C11H10N2O5
reactant | N-bromosuccinimide | 8.58 mmol, 1.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | Methyl 2-(4-nitrophenyl)-1,3-oxazole-4-carboxylate | 1.29 g, 67% | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC=C(N1)C(=O)OC | C11H8N2O5
